US05516616
A solution of 33.55 g (100 mmol) of 3-dimethylaminopropyl 3,5-di-tert-butyl-4-hydroxybenzoate prepared as described above and 12.66 g (100 mmol) of benzyl chloride in 140 ml of acetonitrile was heated at reflux for 1 hour and 15 minutes and then concentrated under vacuum to a clear, thick oil. The resultant oil was allowed to stand overnight and crystallized. The solid was washed with ether, collected and dried giving 45.2 g (97.8% of theory) of N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium chloride.

reactant | 3-dimethylaminopropyl 3,5-di-tert-butyl-4-hydroxybenzoate | 100 mmol, 33.55 g | C(C)(C)(C)C=1C=C(C(=O)OCCCN(C)C)C=C(C1O)C(C)(C)C | C20H33NO3
reactant | benzyl chloride | 100 mmol, 12.66 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
product | N-[3-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)propyl]-N,N-dimethylbenzylammonium chloride | 45.2 g, 97.8% | [Cl-].C(C)(C)(C)C=1C=C(C(=O)OCCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C27H39NO3.ClH/c1-26(2,3)22-17-21(18-23(24(22)29)27(4,5)6)25(30)31-16-12-15-28(7,8)19-20-13-10-9-11-14-20;/h9-11,13-14,17-18H,12,15-16,19H2,1-8H3;1H
